US07956069B2
The preparation of isopropyl 4-[(3aR,7aS)-2-oxooctahydro-1H-indol-1-yl]-1,4′-bipiperidine-1′-carboxylate
Following procedure similar to Example 82, the title compound was prepared from (3aR,7aS)-1-(1,4′-bipiperidin-4-yl)octahydro-2H-indol-2-one and isopropyl chloroformate. 1H NMR (400 MHz, METHANOL-D4) HCl salt: 6 ppm 1.24 (d, J=5.86 Hz, 6H), 1.27-1.53 (m, 4H), 1.53-1.83 (m, 4H), 1.84-2.00 (m, 4H), 2.04-2.17 (m, 3H), 2.26 (d, J=6.64 Hz, 1H), 2.28-2.37 (m, 1H), 2.35-2.68 (m, 2H), 2.74-2.95 (m, 2H), 3.03-3.23 (m, 3H), 3.34-3.46 (m, 1H), 3.60 (d, J=12.89 Hz, 2H), 3.78-3.94 (m, 1H), 4.29 (d, J=14.06 Hz, 2H), 4.76-4.88 (m, 1H). MS (M+1): 392.3

reactant | (3aR,7aS)-1-(1,4′-bipiperidin-4-yl)octahydro-2H-indol-2-one | N1(CCC(CC1)N1C(C[C@H]2CCCC[C@H]12)=O)C1CCNCC1 | C18H31N3O
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | HCl | Cl | ClH
product | isopropyl 4-[(3aR,7aS)-2-oxooctahydro-1H-indol-1-yl]-1,4′-bipiperidine-1′-carboxylate | O=C1N([C@H]2CCCC[C@@H]2C1)C1CCN(CC1)C1CCN(CC1)C(=O)OC(C)C | C22H37N3O3
